US07994185B2
Step C: methyl 3-amino-2-fluorobenzoate
To a solution of methyl 2-fluoro-3-nitrobenzoate (78 g) in THF (400 ml) and methanol (100 ml) was added Raney Ni (40 g), the mixture was heated to 70° C., and then 25 ml of hydrazine hydrate (N2H4.H2O, 85%) was added dropwise. The reaction was monitored by TLC, when the starting material was totally consumed the addition of hydrazine was stop. The mixture was cooled to rt and filtered, the filtrate was concentrated under vacuum to leave a brown oil, which was purified by chromatography (SiO2, 300-400 mesh, PE: EtOAc=11:2) to afford the title compound was obtained as a yellow oil (45 g, 68%). 1H NMR (300 MHz, DMSO) δ ppm 6.96 (m, 3H), 5.36 (s, 2H), 3.81 (s, 3H).

reactant | methyl 2-fluoro-3-nitrobenzoate | 78 g | FC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C8H6FNO4
reactant | hydrazine hydrate | 25 ml | O.NN
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | methanol | 100 ml | CO | CH4O
catalyst | Ni | 40 g | [Ni] | Ni
product | methyl 3-amino-2-fluorobenzoate | NC=1C(=C(C(=O)OC)C=CC1)F | C8H8FNO2
